US07456177B2
Preparation of 11-Allyl-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one
11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one (1.20 g, 4.66 mmol) in dichloromethane (25 mL) was cooled to −78° C. and treated with BCl3 (10.3 mL, 1M in dichloromethane). The mixture was allowed to stir to ambient temperature for 18 h. The mixture was treated with half saturated aqueous NaHCO3 solution (100 mL), the layers were separated and extracted with dichloromethane (3×40 mL). The organic layer was washed with H2O (50 mL) and saturated aqueous NaCl solution (50 mL), dried through a cotton plug and concentrated to an oil. Purification by chromatography on silica gel eluting with 15% EtOAc/hexanes afforded an oil (500 mg, 44%). (TLC 25% EtOAc/hexanes Rf 0.52); 1H NMR (400 MHz, CDCl3) δ 7.33 (dd, J=8.3, 7.5 Hz, 1H), 6.78 (dd, J=8.3, 1.0 Hz, 1H), 6.67 (dd, J=7.5, 1.0 Hz, 1H), 5.52 (m, 1H), 4.95 (m, 2H), 3.16 (br d, J=10.8 Hz, 1H), 3.05 (br s, 1H), 2.85 br, d, J=6.0 Hz, 2H), 2.78 (dd, J=9.5, 1.3 Hz, 1H), 2.65 (d, J=1.7 Hz, 1H), 2.41 (dd, J=10.8, 2.4 Hz, 1H), 2.33 (m, 2H), 1.86 (ddd, J=12.9, 5.9, 2.9 Hz, 1H); GCMS m/z 243 (M)+.

reactant | 11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one | 4.66 mmol, 1.20 g | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)OC)=O | C16H19NO2
reactant | BCl3 | 1M, 10.3 mL | B(Cl)(Cl)Cl | BCl3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 11-Allyl-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one | 500 mg, 44% | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)O)=O | C15H17NO2
